US04837217
Preparation of 2-t-butyl-4-chloro-5-[4-(2-ethoxypropoxy)benzyloxy]-3(2H)-pyridazinone (Compound No. 579)
In 15 ml of N,N-dimethylformamide were dissolved 1.5 g of 2-t-butyl-4-chloro-5-hydroxy-3(2H)-pyridazinone and 2.2 g of 4-(2-ethoxypropoxy)-benzyl bromide, and the resulting solution was heated under stirring on an oil bath at 80° to 90° C. for 3 hours. Then, similarly to the procedures in Preparation Example 2, 1.1 g of the aimed product was obtained as an oil.

reactant | 2-t-butyl-4-chloro-5-hydroxy-3(2H)-pyridazinone | 1.5 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)O | C8H11ClN2O2
reactant | 4-(2-ethoxypropoxy)-benzyl bromide | 2.2 g | C(C)OC(COC1=CC=C(CBr)C=C1)C | C12H17BrO2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-t-butyl-4-chloro-5-[4-(2-ethoxypropoxy)benzyloxy]-3(2H)-pyridazinone | 1.1 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OCC1=CC=C(C=C1)OCC(C)OCC | C20H27ClN2O4
